US08536185B2
Preparation of 2-phenyl-5-(2-(pyridin-4-yl)-1H-imidazol-5-yl)pyrimidine
The title compound was prepared by the method described in Example 1, except that 4-(1-benzyl-1H-imidazol-2-yl)pyridine (prepared according to Example 8, Step A, except that commercially available 4-cyanopyridine was used instead of 3-fluorobenzonitrile) was used in place of the 1-benzyl-2-phenyl-1H-imidazole in Step C; Rf 0.26 with 95:5 v/v dichloromethane-methanol; melting point 300° C.; 1H-NMR (400 MHz; DMSO-d6) δ 9.40 (s, 2H), 8.73 (d, 2H), 8.50-8.45 (m, 2H), 8.25 (bs, 1H), 8.00 (d, 2H), 7.62-7.55 (m, 4H); MS (ESI+) m/z 300.0 (M+1); H-PGDS FPBA IC50: 0.125 μM; H-PGDS inhibitor EIA IC50: 0.075 μM.

reactant | 4-(1-benzyl-1H-imidazol-2-yl)pyridine | C(C1=CC=CC=C1)N1C(=NC=C1)C1=CC=NC=C1 | C15H13N3
reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | 1-benzyl-2-phenyl-1H-imidazole | C(C1=CC=CC=C1)N1C(=NC=C1)C1=CC=CC=C1 | C16H14N2
reactant | FPBA | B(C1=CC(=CC=C1)F)(O)O | C6H6BFO2
solvent | dichloromethane methanol | ClCCl.CO
product | 2-phenyl-5-(2-(pyridin-4-yl)-1H-imidazol-5-yl)pyrimidine | C1(=CC=CC=C1)C1=NC=C(C=N1)C1=CN=C(N1)C1=CC=NC=C1 | C18H13N5
